US04752326
Preparation of 1-(2-fluoro-4-chloro-5-isopropoxyphenyl)-3,5-dimethyl-4-methylaminocarbonylaminopyrazole (Compound No. 74) (Process G)
To a solution of 1-(2-fluoro-4-chloro-5-isopropoxyphenyl)-3,5-dimethyl-4-aminopyrazole (29.8 g) in tetrahydrofuran (100 ml) was added one drop of triethylamine and then added dropwise a solution of methyl isocyanate (6.0 g) in tetrahydrofuran (50 ml). After the completion of addition, the reaction mixture was left to stand at room temperature for one hour. Removal of the solvent from the reaction solution by distillation in vacuo gave the titled compound (34.7 g) as a white crystalline solid. Recrystallization of the solid from a mixture of cyclohexane/acetone provided a white crystalline solid. m.p. 184°-185° C.

reactant | 1-(2-fluoro-4-chloro-5-isopropoxyphenyl)-3,5-dimethyl-4-aminopyrazole | 29.8 g | FC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=C(C(=C1C)N)C | C14H17ClFN3O
reactant | methyl isocyanate | 6.0 g | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2-fluoro-4-chloro-5-isopropoxyphenyl)-3,5-dimethyl-4-methylaminocarbonylaminopyrazole | 34.7 g | FC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=C(C(=C1C)NC(=O)NC)C | C16H20ClFN4O2
